US08871796B2
A stirred solution of 3-{3-[1-(1,3-oxazol-4-ylmethyl)-5-(4-trifluoromethylphenoxy)-1H-pyrazol-3-yl]phenyl}oxetan-3-amine (35 mg, 0.077 mmol) in 1 mL of CH2Cl2 was cooled in an ice bath. To the solution was added TEA (21 uL, 0.15 mmol) and 2,2,2-trifluoroethylsulfonyl chloride (12 uL, 0.12 mmol) and the solution was stirred for 30 min. Water was added and the organic phase was washed with brine, died over Na2SO4, filtered, and the solvent was removed under reduced pressure. The residue was chromatographed on a 12 g silica gel column using 0-5% MeOH:CHCl3 over 16 min at 30 mL/min. Product containing fractions were combined and the solvent was removed under reduced pressure to give N-(3-{3-[5-(4-trifluoromethylphenoxy)-1-(1,3-oxazol-4-ylmethyl)-1H-pyrazol-3-yl]phenyl}oxetan-3-yl)-2,2,2-trifluoroethanesulfonamide as a foam. Calcd (M+1)+: 603.1131. found 603.1153. 1H NMR (400 MHz, CDCl3) δ 7.80 (s, 1H), 7.78 (d, J=7, 1H), 7.65 (d, J=7, 2H), 7.61 (s, 1H), 7.49 (1, J=7, 1H), 7.37 (d, J=7, 2H), 7.28 (d, J=7, 2H), 7.09 (s, 1H), 6.08 (s, 1H), 6.05 (s, 1H), 5.44 (s, 2H), 5.23 (d, J=7, 2H), 5.05 (d, J=7, 2H), 3.03 (q, J=9, 2H).

reactant | 3-{3-[1-(1,3-oxazol-4-ylmethyl)-5-(4-trifluoromethylphenoxy)-1H-pyrazol-3-yl]phenyl}oxetan-3-amine | 0.077 mmol, 35 mg | O1C=NC(=C1)CN1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)N | C23H19F3N4O3
reactant | 2,2,2-trifluoroethylsulfonyl chloride | 0.12 mmol, 12 uL | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | Water | O | H2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(3-{3-[5-(4-trifluoromethylphenoxy)-1-(1,3-oxazol-4-ylmethyl)-1H-pyrazol-3-yl]phenyl}oxetan-3-yl)-2,2,2-trifluoroethanesulfonamide | FC(C1=CC=C(OC2=CC(=NN2CC=2N=COC2)C=2C=C(C=CC2)C2(COC2)NS(=O)(=O)CC(F)(F)F)C=C1)(F)F | C25H20F6N4O5S
